US07420055B2
Synthesis of 4-Bromo-N-[4-chloro-2-(pyridine-3-carbonyl)-phenyl]-3-fluoro-benzenesulfonamide
The title compound was prepared according to the general procedures for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-amino-5-chloro-phenyl)-(pyridin-3-yl)-methanone 2 g (8.7 mmol) and 4-bromo-3-fluoro-benzenesulfonyl chloride 2.35 g (8.77 mmol) in 15 ml pyridine. Purification with silica chromatography eluted with dichlorometane:10-ethyl acetate gave a yellow powder.

reactant | (2-amino-5-chloro-phenyl)-(pyridin-3-yl)-methanone | 8.7 mmol, 2 g | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC=CC1 | C12H9ClN2O
reactant | 4-bromo-3-fluoro-benzenesulfonyl chloride | 8.77 mmol, 2.35 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-Bromo-N-[4-chloro-2-(pyridine-3-carbonyl)-phenyl]-3-fluoro-benzenesulfonamide | BrC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC=CC1)F | C18H11BrClFN2O3S
